US05807859
8-Amino-10-(carboxymethylene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride may be obtained according to the following procedure: 35.5 g of 8-nitro-10-(carboxymethylene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one are added to 74.5 g of stannous chloride dihydrate in 550 ml of concentrated hydrochloric acid, followed by heating at 40° C. for 4 hours. After cooling to 25° C., the mixture is filtered and then washed with 3 times 200 ml of distilled water and twice 100 ml of acetone. The solid is dried at 60° C. under reduced pressure (1 mmHg; 0.13 kPa). 37.45 g of 8-amino-10-(carboxymethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride are obtained in the form of a yellow solid, the melting point of which is greater than 260° C.

reactant | 8-nitro-10-(carboxymethylene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | 35.5 g | [N+](=O)([O-])C1=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C=C1)=CC(=O)O | C15H8N4O5
reactant | hydrochloric acid | 550 ml | Cl | ClH
product | 8-amino-10-(carboxymethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one dihydrochloride | 37.45 g | Cl.Cl.NC1=CC=2C(C3=C(NC(C=4N3C=CN4)=O)C2C=C1)=CC(=O)O | InChI=1S/C15H10N4O3.2ClH/c16-7-1-2-8-9(5-7)10(6-11(20)21)13-12(8)18-15(22)14-17-3-4-19(13)14;;/h1-6H,16H2,(H,18,22)(H,20,21);2*1H
